US08865912B2
b) 1-[(3,4-dimethylphenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid
To a mixture of methyl 1-[(3,4-dimethylphenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylate (0.24 g, 0.61 mmol) in Tetrahydrofuran (THF) (10 mL) was added in lithium hydroxide (5.99 mL, 11.99 mmol). The reaction was stirred at 50° C. for 2 h. The reaction was cooled to room temperature. The organic solvent was removed in-vacuo. The precipitate was collected by filtration. Water (20 mL) was added in. The mixture was acidified with 1 N HCl. The resulting solid was filtered and washed with water and dried to give the product (0.16 g, 66%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.18 (s, 6H), 2.58-2.75 (s, 3H), 3.06-3.22 (m, 4H), 3.71-3.82 (m, 4H), 5.55 (s, 2H), 6.94 (m, 1H), 7.04 (s, 1H), 7.11 (d, 1H, J=7.83 Hz), 7.52 (m, 2H). MS (ES+) m/e 380.2[M+H]+

reactant | methyl 1-[(3,4-dimethylphenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylate | 0.61 mmol, 0.24 g | CC=1C=C(C=CC1C)CN1C(=NC2=C1C=C(C=C2C(=O)OC)N2CCOCC2)C | C23H27N3O3
reactant | lithium hydroxide | 11.99 mmol, 5.99 mL | [OH-].[Li+]
solvent | Tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-[(3,4-dimethylphenyl)methyl]-2-methyl-6-(4-morpholinyl)-1H-benzimidazole-4-carboxylic acid | 0.16 g, 66% | CC=1C=C(C=CC1C)CN1C(=NC2=C1C=C(C=C2C(=O)O)N2CCOCC2)C | C22H25N3O3
